US05710169
N-[2-(3,4-Dichlorophenyl)-2-(4-hydroxy-4-phenylpiperidino)ethyl]-N-methyl-3-isopropoxyphenylacetamide hydrochloride salt
A solution of 3-isopropoxyphenylacetic acid (670 mg) and 1,1'carbonyldiimidazole (590 mg) in tetrahydrofuran (15 mL) was stirred at reflux for 0.5 hours. The reaction was cooled to 23° C. and treated with a solution of N-[2-(3,4-dichlorophenyl)-2-(4-hydroxy-4-phenylpiperdino)ethyl]methylamine (940 mg) in tetrahydrofuran (40 mL). The reaction was stirred at 23° C. for 18 hours. The reaction was evaporated to a gold oil. The oil was partitioned between diethylether (100 mL) and 1N hydrochloric acid (150 mL). The organic layer was treated with hydrochloric acid (g)/ether and evaporated to give a yellow oil which was dissolved in dichloromethane (10 mL) and added dropwise to diethylether (500 mL). The title compound precipitated as a white solid (480 mg); mp 127°-132° C.; MS: m/z=555(M+1); NMR: 1.23 (d,3), 1.25 (d,3), 1.75 (m,2), 2.4 (m, 1), 2.7 (m,1), 2.83 (s,3), 3.13 (m,2), 3.43 (m,2), 3.54 (s,2), 3.73 (m, 1), 4.52 (m,1), 5.37 (m, 1), 6.38 (d,1), 6.66 (s,1,), 6.73 (d,1), 7.01 (m,3,), 7.22 (m, 2,), 7.46 (d,2), 7.7 (s,2,), 8.05 (s,1), 11.73 (s,1). Analysis Calculated: C, 61.95; H, 6.37; N, 4.66; Found: C, 61.94; H, 6.3; N, 4.56.

reactant | 3-isopropoxyphenylacetic acid | 670 mg | C(C)(C)OC=1C=C(C=CC1)CC(=O)O | C11H14O3
reactant | 1,1'carbonyldiimidazole | 590 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-[2-(3,4-dichlorophenyl)-2-(4-hydroxy-4-phenylpiperdino)ethyl]methylamine | 940 mg | ClC=1C=C(C=CC1Cl)C(CNC)N1CCC(CC1)(C1=CC=CC=C1)O | C20H24Cl2N2O
reactant | diethylether | 500 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[2-(3,4-Dichlorophenyl)-2-(4-hydroxy-4-phenylpiperidino)ethyl]-N-methyl-3-isopropoxyphenylacetamide hydrochloride salt | Cl.ClC=1C=C(C=CC1Cl)C(CN(C(CC1=CC(=CC=C1)OC(C)C)=O)C)N1CCC(CC1)(C1=CC=CC=C1)O | InChI=1S/C31H36Cl2N2O3.ClH/c1-22(2)38-26-11-7-8-23(18-26)19-30(36)34(3)21-29(24-12-13-27(32)28(33)20-24)35-16-14-31(37,15-17-35)25-9-5-4-6-10-25;/h4-13,18,20,22,29,37H,14-17,19,21H2,1-3H3;1H
